US07956077B2
tert-Butyl 2-{(1R ,3S)-3-[5-ethyl-2-(3-methoxyphenyl)oxazol-4-ylmethoxy]-cyclohexylmethoxy}-2-methylpropionate
200 mg of tert-butyl 2-((1R,3S)-3-hydroxycyclohexylmethoxy)-2-methylpropionate are added dropwise as solution in MTBE to a suspension of 65 mg of sodium hydride (60% by weight in mineral oil) in 10 ml of MTBE. After gas evolution ceases, 503 mg of 4-iodomethyl-5-ethyl-2-(3-methoxyphenyl)oxazole are added as solution in MTBE, and the suspension is heated under reflux overnight. Ethyl acetate (MTBE can also be used) is added to the reaction mixture, and the mixture is washed with water and saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The residue is chromatographed on silica gel (heptane/ethyl acetate gradient), resulting in 323 mg of tert-butyl 2-{(1R,3S)-3-[5-ethyl-2-(3-methoxyphenyl)oxazol-4-ylmethoxy]cyclohexylmethoxy}-2-methylpropionate as yellow oil.

reactant | tert-butyl 2-((1R,3S)-3-hydroxycyclohexylmethoxy)-2-methylpropionate | 200 mg | O[C@@H]1C[C@@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C15H28O4
reactant | sodium hydride | 65 mg | [H-].[Na+]
reactant | 4-iodomethyl-5-ethyl-2-(3-methoxyphenyl)oxazole | 503 mg | ICC=1N=C(OC1CC)C1=CC(=CC=C1)OC | C13H14INO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | MTBE | 10 ml | CC(C)(C)OC | C5H12O
product | tert-Butyl 2-{(1R ,3S)-3-[5-ethyl-2-(3-methoxyphenyl)oxazol-4-ylmethoxy]-cyclohexylmethoxy}-2-methylpropionate | C(C)C1=C(N=C(O1)C1=CC(=CC=C1)OC)CO[C@@H]1C[C@@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C28H41NO6
